US08008303B2
5′-Amino-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1 lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide
A solution of {4′-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-carbamic acid tert-butyl ester (685 mg) in ethanol (25 ml) and 6M HCl (25 ml) was stirred at 20 C for 18 h. The mixture was then basified and the ethanol evaporated. The colourless solid thus formed was collected by filtration and dried (434 mg).

reactant | {4′-[4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylcarbamoyl]-6-methyl-biphenyl-3-yl}-carbamic acid tert-butyl ester | 685 mg | C(C)(C)(C)OC(NC=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCS(CC1)(=O)=O)=O)=O | C30H35N3O5S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | HCl | 6M, 25 ml | Cl | ClH
product | 5′-Amino-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1 lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)C)=O | C25H27N3O3S
